US05101048
Preparation of 4-acetylphenyl 2,3,4-tri-O-acetyl-5-thio-β-D-xylopyranoside (Example 24a)
If the procedure described in Preparation LXXXIII is followed starting from 2 g (14.7.10-3 mol) of 1-(4-hydroxyphenyl)ethanone, 2.8 g (16.10-3 mol) of silver imidazolate, 5.74 g (16.1.10-3 mol) of 2,3,4-tri-O-acetyl-5-thio-α-D-xylopyranosyl bromide and 4 g (29.3.10-3 mol) of zinc chloride in 100 ml of methylene chloride, 0.96 g (yield: 18%) of the expected product is obtained after purification by chromatography on silica gel using a toluene/ethyl acetate mixture (6/1 v/v) as the eluent.

reactant | 1-(4-hydroxyphenyl)ethanone | 2 g | OC1=CC=C(C=C1)C(C)=O | C8H8O2
reactant | 2,3,4-tri-O-acetyl-5-thio-α-D-xylopyranosyl bromide | 5.74 g | C(C)(=O)O[C@H]1[C@H](SC[C@H]([C@@H]1OC(C)=O)OC(C)=O)Br | C11H15BrO6S
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
catalyst | silver imidazolate | 16.10-3 mol, 2.8 g | [N-]1C=NC=C1.[Ag+]
catalyst | zinc chloride | 4 g | [Cl-].[Zn+2].[Cl-]
product | 4-acetylphenyl 2,3,4-tri-O-acetyl-5-thio-β-D-xylopyranoside | 0.96 g, yield: 18% | C(C)(=O)O[C@H]1[C@H](OC2=CC=C(C=C2)C(C)=O)SC[C@H]([C@@H]1OC(C)=O)OC(C)=O | C19H22O8S
